US08003785B2
To a mixture of 0.10 g (0.23 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-fluoro-benzoic acid (I-182) and 6 mL of dimethylformamide was added 0.0499 g (0.37 mmole) of 1-hydroxybenzotriazole, 0.1349 g (0.356 mmole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate and 0.0615 g (1.378 mmole) of diisopropylethylamine. The mixture was stirred for 10 minutes, then 0.0728 g (0.349 mmole) of 4-amino-1-Boc-piperidine was added. The reaction mixture was stirred for 2 hours and then concentrated under reduced pressure. The residue was dissolved in 80 mL of ethyl acetate and washed three times with 10 mL of 1M sodium hydroxide, twice with 15 mL of brine, dried, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-90:10) gave 0.0906 g of 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-fluoro-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester (I-229) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-fluoro-benzoic acid | 0.23 mmole, 0.10 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)F | C20H20F3N5O3
reactant | 1-hydroxybenzotriazole | 0.37 mmole, 0.0499 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.356 mmole, 0.1349 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 1.378 mmole, 0.0615 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-amino-1-Boc-piperidine | 0.349 mmole, 0.0728 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-fluoro-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.0906 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)F)=O | C30H38F3N7O4
